US06495576B2
3-Ethoxy-4-(2-pyrazinylamino)-3-cyclobutene-1,2-dione
A solution of aminopyrazine and 3,4-diethoxy-3-cyclobutene-1,2-dione in ethanol was processed as described in Example 1A to provide the title compound. MS (DCI/NH3) m/z 220 (M+H)+.

reactant | aminopyrazine | NC1=NC=CN=C1 | C4H5N3
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | C(C)O | C2H6O
product | 3-Ethoxy-4-(2-pyrazinylamino)-3-cyclobutene-1,2-dione | C(C)OC=1C(C(C1NC1=NC=CN=C1)=O)=O | C10H9N3O3
